** sch_path: /home/hx2003/Desktop/ttihp-delay/schematics/hx_phase_detector.sch
.subckt hx_phase_detector UP_INV DOWN DOWN_INV DLL_RESETN DELAY_IN UP DELAY_OUT VSS VDD
*.PININFO VDD:I VSS:I UP:O DOWN:O UP_INV:O DLL_RESETN:I DOWN_INV:O DELAY_IN:I DELAY_OUT:I
x200 UP UP_INV DELAY_IN net1 net4 VDD VSS sg13g2_dfrbp_1
x201 DOWN DOWN_INV DELAY_OUT net3 net4 VDD VSS sg13g2_dfrbp_1
x206 net2 VDD VSS sg13g2_tiehi
x204 net1 DELAY_IN net2 DLL_RESETN VDD VSS sg13g2_dfrbpq_1
x205 net3 VDD VSS sg13g2_tiehi
x202 net4 DOWN UP net5 VDD VSS sg13g2_a21oi_1
x203 net5 DLL_RESETN VDD VSS sg13g2_inv_1
.ends

* expanding   symbol:  sg13g2_stdcells/sg13g2_dfrbp_1.sym # of pins=5
** sym_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_dfrbp_1.sym
** sch_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_dfrbp_1.sch
.subckt sg13g2_dfrbp_1 Q Q_N CLK D RESET_B VDD VSS

*.PININFO D:I RESET_B:I CLK:I Q:O Q_N:O
MM1 Db D net12 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM2 net12 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM3 net2 clkneg net11 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM4 net11 net1 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM5 net1 net2 net7 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM6 net7 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM7 Q_N net2 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM8 net3 net2 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM9 Q net3 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM10 clkneg CLK VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM11 clkpos clkneg VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM12 Db clkneg net5 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM13 net5 clkpos net10 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM14 net10 net4 net6 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM15 net6 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM16 net4 net5 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM17 net4 clkpos net2 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM18 Db RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM19 Db D VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM20 net9 net1 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM21 net2 clkpos net9 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM22 net1 net2 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM23 net1 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM24 Q_N net2 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM25 net3 net2 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM26 Q net3 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM27 clkneg CLK VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM28 clkpos clkneg VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM29 Db clkpos net5 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM30 net8 net4 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM31 net5 clkneg net8 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM32 net5 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM33 net4 net5 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM34 net4 clkneg net2 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_stdcells/sg13g2_tiehi.sym # of pins=1
** sym_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_tiehi.sym
** sch_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_tiehi.sch
.subckt sg13g2_tiehi L_HI VDD VSS

*.PININFO L_HI:O
MM1 net1 net1 VSS VSS sg13_lv_nmos w=300n l=130.00n ng=1
MM2 net3 net2 VSS VSS sg13_lv_nmos w=795.00n l=130.00n ng=1
MM3 net2 net1 VDD VDD sg13_lv_pmos w=660.0n l=130.00n ng=1
MM4 L_HI net3 VDD VDD sg13_lv_pmos w=1.155u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_stdcells/sg13g2_dfrbpq_1.sym # of pins=4
** sym_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_dfrbpq_1.sym
** sch_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_dfrbpq_1.sch
.subckt sg13g2_dfrbpq_1 Q CLK D RESET_B VDD VSS

*.PININFO Q:O CLK:I D:I RESET_B:I
MM1 Db D net12 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM2 net12 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM3 net3 clkneg net11 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM4 net11 net1 VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM5 net1 net3 net7 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM6 net7 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM7 net2 net3 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM8 Q net2 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM9 clkneg CLK VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM10 clkpos clkneg VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM11 Db clkneg net5 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM12 net5 clkpos net10 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM13 net10 net4 net6 VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM14 net6 RESET_B VSS VSS sg13_lv_nmos w=420.00n l=130.00n ng=1
MM15 net4 net5 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM16 net4 clkpos net3 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM17 Db RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM18 Db D VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM19 net9 net1 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM20 net3 clkpos net9 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM21 net1 net3 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM22 net1 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM23 net2 net3 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM24 Q net2 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM25 clkneg CLK VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM26 clkpos clkneg VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM27 Db clkpos net5 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM28 net8 net4 VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM29 net5 clkneg net8 VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM30 net5 RESET_B VDD VDD sg13_lv_pmos w=420.00n l=130.00n ng=1
MM31 net4 net5 VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
MM32 net4 clkneg net3 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_a21oi_1.sym # of pins=4
** sym_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_a21oi_1.sym
** sch_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_a21oi_1.sch
.subckt sg13g2_a21oi_1 Y A1 A2 B1 VDD VSS

*.PININFO A1:I A2:I B1:I Y:O
MM1 Y B1 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM2 Y A1 net2 VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM3 net2 A2 VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM4 net1 A1 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM5 net1 A2 VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
MM6 Y B1 net1 VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends


* expanding   symbol:  sg13g2_inv_1.sym # of pins=2
** sym_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_inv_1.sym
** sch_path: /home/hx2003/Desktop/IHP-Open-PDK/ihp-sg13g2/libs.tech/xschem/sg13g2_stdcells/sg13g2_inv_1.sch
.subckt sg13g2_inv_1 Y A VDD VSS

*.PININFO Y:O A:I
MM1 Y A VSS VSS sg13_lv_nmos w=740.00n l=130.00n ng=1
MM2 Y A VDD VDD sg13_lv_pmos w=1.12u l=130.00n ng=1
.ends

